US08008307B2
Step b: 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-3-nitropyridin-2-amine
To a solution of (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanol (0.782 g, 0.00217 mol) in THF (30.0 mL) was added NaH (0.156 g, 0.00650 mol) and the mixture was stirred for 1 h. To this was added 2-amino-4-chloro-3-nitropyridine (0.376 g, 0.00217 mol) and the mixture was stirred overnight. The solution was concentrated and the residue was purified by flash chromatography (25% EtOAc/hexanes) to afford the title compound (0.381 g, 35%) as a yellow solid.

reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanol | 0.00217 mol, 0.782 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)O | C18H40O3Si2
reactant | NaH | 0.00650 mol, 0.156 g | [H-].[Na+]
reactant | 2-amino-4-chloro-3-nitropyridine | 0.00217 mol, 0.376 g | NC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H4ClN3O2
solvent | THF | 30.0 mL | C1CCOC1 | C4H8O
product | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-3-nitropyridin-2-amine | 0.381 g, 35% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C(C(=NC=C1)N)[N+](=O)[O-] | C23H43N3O5Si2
